US05250517
1.5 g (10 mmol) of D-asparagine hydrate in 5 ml of 2N sodium hydroxide solution were treated with 1.01 ml (10 mmol) of benzaldehyde and the reaction mixture was stirred homogeneously at room temperature for 20 minutes. Subsequently, 114 mg (3 mmol) of sodium borohydride were added portionwise, the mixture was stirred at room temperature for 30 minutes, a further 114 mg of sodium borohydride were added and, finally, the mixture was stirred at room temperature for a further 30 minutes. Thereafter, the aqueous phase was washed with methylene chloride and then adjusted to pH 6-7 with 1N hydrochloric acid, upon which crystallization occurred. The separated crystals were filtered off, washed with water and ether and finally dried in a high vacuum, to obtain 0.6 g (27%) of N-benzyl-3-carbamoyl-D-alanine as a white powder. MS 223 (M+H)+.

reactant | D-asparagine hydrate | 10 mmol, 1.5 g | O.N[C@H](CC(N)=O)C(=O)O
reactant | benzaldehyde | 10 mmol, 1.01 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium borohydride | 3 mmol, 114 mg | [BH4-].[Na+]
reactant | sodium borohydride | 114 mg | [BH4-].[Na+]
solvent | sodium hydroxide | 2N, 5 ml | [OH-].[Na+]
product | N-benzyl-3-carbamoyl-D-alanine | 0.6 g, 27% | C(C1=CC=CC=C1)N[C@H](CC(N)=O)C(=O)O | C11H14N2O3
